US04556672
5-Benzamido-2-oxindole-1-carboxamide
Acylation of 5-amino-2-oxindole-1-carboxamide with benzoyl chloride substantially according to the procedure of Example 31 afforded a 90% yield of the title compound as a cream-colored solid, mp 223°-226° C.

reactant | 5-amino-2-oxindole-1-carboxamide | NC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H9N3O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 5-Benzamido-2-oxindole-1-carboxamide | 90% yield | C(C1=CC=CC=C1)(=O)NC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C16H13N3O3
